US06936608B2
Methyl iodide (323 μl, 5.2 mmol) was added to a stirred mixture of 5-(3-bromophenyl)-1H-[1,2,3]triazole (776 mg, 3.46 mmol) and potassium carbonate (1.19 g, 8.6 mmol) in DMF (20 ml) at room temperature under nitrogen. The reaction mixture was stirred overnight and then concentrated under reduced pressure. Water (50 ml) was added and then the mixture was extracted with ethyl acetate (3×50 ml). The combined organic extracts were concentrated under reduced pressure while dry loading onto silica gel. The residue was purified by column chromatography (silica gel, 50% Et2O/isohexane) to yield first 4-(3-bromophenyl)-2-methyl-2H-[1,2,3]triazole (344 mg, 42%), the solvent polarity was increased to 80% Et2O/isohexanes to yield 5-(3-bromophenyl)-1-methyl-1H-[1,2,3]triazole (15 mg, 2%), and then the solvent polarity was increased to 100% Et2O to yield 4-(3-bromophenyl)-1-methyl-1H-[1,2,3]triazole (147 mg, 18%).

reactant | Methyl iodide | 5.2 mmol, 323 μl | CI | CH3I
reactant | 5-(3-bromophenyl)-1H-[1,2,3]triazole | 3.46 mmol, 776 mg | BrC=1C=C(C=CC1)C1=CN=NN1 | C8H6BrN3
reactant | potassium carbonate | 8.6 mmol, 1.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(3-bromophenyl)-2-methyl-2H-[1,2,3]triazole | 344 mg, 42% | BrC=1C=C(C=CC1)C1=NN(N=C1)C | C9H8BrN3
